US09290451B2
f) 5-Cyclopropyl-6-(4-fluoro-benzyl)-pyridine-2-carbonitrile
A mixture of 6-bromomethyl-5-cyclopropyl-pyridine-2-carbonitrile (0.1 g, 0.4 mmol), 4-fluoro-benzylboronic acid (CAN 1765-93-1, 0.1 g, 0.7 mmol), Pd(dppf)Cl2 (CAN 95464-05-4, 50 mg, 0.068 mmol), Cs2CO3 (0.2 g, 0.6 mmol) in 1.4-dioxane (10 mL) was stirred for 12 h at 110° C. under a nitrogen atmosphere. The mixture was filtered, concentrated and purified by flash column chromatography (silica gel, 3 g, eluting with 25% ethyl acetate in petroleum ether) to give the title compound (80 mg, 75%) as yellow solid; MS (EI): m/e=253.2 [M+H]+.

reactant | 6-bromomethyl-5-cyclopropyl-pyridine-2-carbonitrile | 0.4 mmol, 0.1 g | BrCC1=C(C=CC(=N1)C#N)C1CC1 | C10H9BrN2
reactant | 4-fluoro-benzylboronic acid | 0.7 mmol, 0.1 g | FC1=CC=C(CB(O)O)C=C1 | C7H8BFO2
reactant | Cs2CO3 | 0.6 mmol, 0.2 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1.4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.068 mmol, 50 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-Cyclopropyl-6-(4-fluoro-benzyl)-pyridine-2-carbonitrile | 80 mg, 75% | C1(CC1)C=1C=CC(=NC1CC1=CC=C(C=C1)F)C#N | C16H13FN2
